US05795767
A solution prepared by dissolving 22 g of N-acetylglucosamine and 11 g of pyruvic acid in 50 mM of Tris-HCl buffer (pH 7.5) containing 5 mM ATP and 5 mM MgCl2. To the solution was added 15 mg of protein having renin binding activities obtained in example 3 and 500 unit of N-acetylneuraminic acid lyase, and the total volume of the solution was adjusted to 0.5 liter. The mixture was reacted at 30° C. for 48 hours. After the reaction, 12.4 g of N-acetylneuraminic acid was produced in the reaction mixture. Reaction product was isolated by ion-exchange chromatography with Dowex 11 (DOW CHEMICAL CO.). After concentration, 10.3 g of N-acetylneuraminic acid was obtained by lyophilization.

reactant | N-acetylglucosamine | 22 g | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
reactant | pyruvic acid | 11 g | C(C(=O)C)(=O)O | C3H4O3
reactant | ATP | 5 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | MgCl2 | 5 mM | [Mg+2].[Cl-].[Cl-]
solvent | Tris-HCl | 50 mM, pH 7.5 | C(C(CO)(CO)N)O.Cl
product | N-acetylneuraminic acid | C(C)(=O)N[C@@H]1[C@H](CC(C(O)=O)(O)O[C@H]1[C@H](O)[C@H](O)CO)O | C11H19NO9
